US05190934
A solution of 27.18 g of m-chloroperbenzoic acid in chloroform is cooled to circa 10° under argon and treated, by dropwise addition, with a chloroform solution of 17.1 g of 3-(N-tert.-butoxycarbonylamino)-2-methyl-prop-2-ene over a period of 1 hour maintaining the temperature below 15° with external cooling. About 30 minutes after the addition is complete and a white precipitate begins to form. Completeness of the reaction can be judged by chromatographic analysis. When the reaction is complete, the suspension is diluted with chloroform and washed with 3×300 ml of a 10% aqueous solution of sodium bisulphite followed by 3×300 ml of a 10% aqueous solution of sodium bicarbonate. Drying of the organic layer and removal of the solvent in vacuo afforded 3-(N-tert.-butoxycarbonylamino)-2-methyl-2,3-epoxypropane as a colourless oil; 1H-NMR (CDCl3): δ (ppm)=3.3 (2H, t, CH2N), 2.65 (2H, ABq, CH2) 1.43 (9H, s, tBu), 1.33 (3H, s, CH3).

reactant | m-chloroperbenzoic acid | 27.18 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 3-(N-tert.-butoxycarbonylamino)-2-methyl-prop-2-ene | 17.1 g | C(C)(C)(C)OC(=O)NC=C(C)C | C9H17NO2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 3-(N-tert.-butoxycarbonylamino)-2-methyl-2,3-epoxypropane | C(C)(C)(C)OC(=O)NC1C(C)(O1)C | C9H17NO3
